US08236976B2
Preparation of 1-(3-tert-Butyl-oxiranyl)-3-methyl-butan-1-ol (25)
The product was prepared by General procedure T using 50 mg (0.28 mmol) Cy2BH, 35 μL (0.28 mmol) 3,3-dimethyl-1-butyne, 0.39 mL (0.78 mmol, 2.0 M in hexanes) Et2Zn, 2.4 mg (0.01 mmol) (−)-MIB, 27 μL, (0.25 mmol) isovaleraldehyde, 50 μL (0.05 mmol, 1.0 M in hexanes) Ti(OiPr)4, and 10.6 μL (0.05 mmol) (+)-DIPT. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound in 89% yield (42 mg, 0.23 mmol). threo-diastereomer: Colorless oil. [α]D20=+72.5 (c=0.67, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.90 (s, 9H), 0.91 (d, 3H, J=6.7 Hz), 0.93 (d, 3H, J=6.7 Hz), 1.24-1.29 (m, 1H), 1.36-1.42 (m, 1H), 1.78 (br s, 1H), 1.83 (m, 1H), 2.77 (d, 1H, J=2.3 Hz), 2.83 (t, 1H, J=2.7 Hz), and 3.86 (m, 1H) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 22.0, 23.5, 24.5, 25.8, 31.6, 42.6, 58.0, 62.3, and 66.5 ppm; IR (neat): 3410, 2957, 2923, 2862, 1730, 1483, 1467, 1387, 1365, 1285, 1261, and 1209 cm−1; HRMS-CI m/z 169.1585 [(M−OH)+; calcd for C11H21O: 169.1592]. erythro-diastereomer: Colorless oil. [α]D20=. □{tilde over ( )}{tilde over ( )}□ (c=0.53, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.90 (s, 9H), 0.93 (t, 6H, J=6.8 Hz), 1.27-1.31 (m, 1H), 1.49-1.53 (m, 1H), 1.55 (br s, 1H), 1.79-1.82 (m, 1H), 2.68 (d, 1H, J=2.2 Hz), 2.78 (dd, 1H, J=5.4, 2.3 Hz), and 3.47 (m, 1H) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 22.1, 23.2, 24.3, 25.8, 31.6, 43.2, 59.1, 64.9, and 70.1 ppm; IR (neat): 3379, 2959, 2923, 2872, 1726, 1483, 1463, 1417, 1361, and 1255 cm−1; HRMS-CI m/z 167.1585 [(M−OH)+; calcd for C11H21O: 169.1592].

reactant | Cy2BH | 0.28 mmol, 50 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 3,3-dimethyl-1-butyne | 0.28 mmol, 35 μL | CC(C#C)(C)C | C6H10
reactant | Et2Zn | 0.78 mmol, 2.0 M, 0.39 mL | [Zn](CC)CC
reactant | isovaleraldehyde | 0.25 mmol | C(CC(C)C)=O | C5H10O
reactant | (+)-DIPT | 0.05 mmol, 10.6 μL | CC(C)OC(=O)[C@@H]([C@H](C(=O)OC(C)C)O)O | C10H18O6
catalyst | Ti(OiPr)4 | 0.05 mmol, 1.0 M, 50 μL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 1-(3-tert-Butyl-oxiranyl)-3-methyl-butan-1-ol | 89% yield | C(C)(C)(C)C1C(O1)C(CC(C)C)O | C11H22O2
